US06624196B2
In a manner similar to that described in Example 3, heptanoyl chloride (0.051 g, 0.00034 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.048 g of 4-[4-(heptanoylamino)-phenyl]-4-oxo-butyric acid as an off-white solid; MS-(AP+) MH+306.

reactant | heptanoyl chloride | 0.00034 mol, 0.051 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(heptanoylamino)-phenyl]-4-oxo-butyric acid | 0.048 g | C(CCCCCC)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C17H23NO4
